US08242125B2
5-[7-(3-Diethylamino-propionyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 5-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide, Example 31-C, (120 mg, 0.26 mmol), HATU (198 mg, 0.52 mmol), DIEA (0.2 mL, 1.30 mmol) and DMF (5 mL) is added 3-diethylamino-propionic acid hydrochloride (47 mg, 0.26 mmol). After stirring at rt for 2 h the contents of the flask are partitioned between DCM and 10% aqueous LiCl. Organic layer is removed, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue is then separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 581.2 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.40-8.48 (m, 1H), 8.33 (d, J=8.8 Hz, 1H), 8.06 (s, 1H), 7.94 (d, J=3.5 Hz, 1H), 7.89 (d, J=8.6 Hz, 1H), 7.57 (t, J=8.1 Hz, 1H), 7.36-7.47 (m, 2H), 7.10 (dd, J=9.0, 2.1 Hz, 1H), 6.74 (d, J=3.8 Hz, 1H), 4.71-4.79 (m, 2H), 3.85-4.05 (m, 2H), 3.20 (d, J=5.8 Hz, 2H), 2.84-3.08 (m, 8H), 1.23 (q, J=7.1 Hz, 6H).

reactant | 5-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2)(F)F | C23H18F3N5O2
reactant | HATU | 0.26 mmol, 120 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.30 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-diethylamino-propionic acid hydrochloride | 0.26 mmol, 47 mg | Cl.C(C)N(CCC(=O)O)CC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-[7-(3-Diethylamino-propionyl)-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)C(CCN(CC)CC)=O)(F)F | C30H31F3N6O3
